US07371767B2
To a solution of 2-[1-(triisopropylsilyl)-1H-pyrrol-3-yl]-1,3-thiazole (0.200 g, 0.671 mmol) in anhydrous THF (2 mL) was added TBAF (1 mL, 1 mmol of a 1M in THF) and after stirring for 20 min at rt, the reaction was complete. The reaction mixture was quenched with water (40 mL), extracted with EtOAc (3×25 mL) and washed with brine. The organic phase was dried over Na2SO4, concentrated in vacuo and chromatographed on silica gel eluting with EtOAc:hexane (1:1) to afford 2-(1H-pyrrol-3-yl)-1,3-thiazole as a pale solid. 1H NMR (CD3Cl, 300 MHz) δ 8.20 (br, 1H) 7.63 (d, 1H), 7.28 (d, 1H), 7.06 (d, 1H), 6.73 (dd, 1H), 6.57 (dd, 1H).

reactant | 2-[1-(triisopropylsilyl)-1H-pyrrol-3-yl]-1,3-thiazole | 0.671 mmol, 0.200 g | C(C)(C)[Si](N1C=C(C=C1)C=1SC=CN1)(C(C)C)C(C)C | C16H26N2SSi
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(1H-pyrrol-3-yl)-1,3-thiazole | N1C=C(C=C1)C=1SC=CN1 | C7H6N2S
